US04638005
1-Methyl-3-(1-sulfonylethyl)pyrazine (2400)
3.50 g of 2-(1-sulfonylethyl)pyrazine sodium salt (2300) was dissolved in 75 ml of methanol and 10 ml of methyl iodide added. The flask was then stoppered and stored in the dark at room temperature.

reactant | 2-(1-sulfonylethyl)pyrazine sodium salt | 3.50 g | [Na].S(=O)(=O)=C(C)C1=NC=CN=C1
reactant | methyl iodide | 10 ml | CI | CH3I
solvent | methanol | 75 ml | CO | CH4O
product | 1-Methyl-3-(1-sulfonylethyl)pyrazine | CN1CC(=NC=C1)C(C)=S(=O)=O | C7H10N2O2S
